US07495006B2
1-Hydroxymethyl-3-benzyloxymethyl-cyclobutane
In a 10 mL flask with 1-methylene-3-benzyloxymethyl-cyclobutane (1.54 g, 8.19 mmol) inside, dry THF 11 mL was added under argon to give a colorless solution. Then cool this to 0° C., 9-BBN (0.5 M in THF, 27.4 mL, 13.7 mmol) was added drop by drop. This was allowed to warm up to ambient temperature and was left stirring for 22 hr, after which time the reaction mixture was cooled to 0° C. and H2O (0.9 mL), 3 N NaOH (2.7 mL) and 30% H2O2 (2.8 mL) were added successively. After stirring for 1 hr, 2 N HCl and saturated NH4Cl were added. The mixture was extracted with EtOAc and the separated organic phase was dried over MgSO4 and solvent evaporation gave the crude oily product, which was purified by silica gel flash chromatography (Hexane:EtOAc=3:1) to give a colorless oil (cis/trans=2/1, 1.44 g, 85%, Rf=0.16 (Hexane:EtOAc=3:1)). 1H NMR (CDCl3, 400 MHz): δ 1.52-1.60 (m), 1.86-1.90 (m), 2.12-2.19 (m), 2.36-2.64 (m), 3.39-3.41 (d, J=8), 3.49-3.51 (d, J=8), 3.54-3.56 (d, J=8), 3.64-3.66 (d, J=8), 4.51 (s), 4.53 (s), 7.2-7.4 (m). MS (FAB): expected for C13H18O2 (M+H)+ 207.28. Found 207.13807.

reactant | 1-methylene-3-benzyloxymethyl-cyclobutane | 8.19 mmol, 1.54 g | C=C1CC(C1)COCC1=CC=CC=C1 | C13H16O
reactant | 9-BBN | 13.7 mmol, 0.5 M, 27.4 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 3 N, 2.7 mL | [OH-].[Na+]
reactant | H2O2 | 2.8 mL | OO | H2O2
reactant | HCl | 2 N | Cl | ClH
reactant | NH4Cl | [NH4+].[Cl-]
solvent | H2O | 0.9 mL | O | H2O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 1-Hydroxymethyl-3-benzyloxymethyl-cyclobutane | OCC1CC(C1)COCC1=CC=CC=C1 | C13H18O2
